US05278333
2-Phenylpropionitrile
The procedure of example (1) is followed, using phenylacetonitrile, dimethyl carbonate and a catalytic amount of alkali carbonate in a 1:18:0.05 molar ratio. Li2CO3, Na2CO3, K2CO3 and Cs2CO3 were used respectively, to obtain the following results:

reactant | phenylacetonitrile | C1(=CC=CC=C1)CC#N | C8H7N
reactant | dimethyl carbonate | C(OC)(OC)=O | C3H6O3
reactant | carbonate | C([O-])([O-])=O
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | Cs2CO3 | C(=O)([O-])[O-].[Cs+].[Cs+]
product | 2-Phenylpropionitrile | C1(=CC=CC=C1)C(C#N)C | C9H9N
